* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT BUFFER_2 Vpcas Vi- Vi+ Vb2 Vb3 Vb1 Vncas Vb4 AVdd AGnd Vo
** N=51 EP=11 IP=0 FDC=244
R0 2 1 5219.42 L=1e-05 W=2e-06 $SUB=AVdd $[RNHR1000_MM] $X=33090 $Y=24010 $D=45
R1 3 4 5219.42 L=1e-05 W=2e-06 $SUB=AVdd $[RNHR1000_MM] $X=33090 $Y=39690 $D=45
R2 4 3 5219.42 L=1e-05 W=2e-06 $SUB=AVdd $[RNHR1000_MM] $X=91510 $Y=24120 $D=45
R3 1 2 5219.42 L=1e-05 W=2e-06 $SUB=AVdd $[RNHR1000_MM] $X=91510 $Y=39800 $D=45
M4 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=31930 $Y=74480 $D=3
M5 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=31930 $Y=77860 $D=3
M6 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=32920 $Y=74480 $D=3
M7 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=32920 $Y=77860 $D=3
M8 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=33910 $Y=74480 $D=3
M9 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=33910 $Y=77860 $D=3
M10 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=34900 $Y=74480 $D=3
M11 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=34900 $Y=77860 $D=3
M12 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=35890 $Y=74480 $D=3
M13 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=35890 $Y=77860 $D=3
M14 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=36880 $Y=74480 $D=3
M15 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=36880 $Y=77860 $D=3
M16 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=37870 $Y=74480 $D=3
M17 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=37870 $Y=77860 $D=3
M18 1 5 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=38800 $Y=57150 $D=3
M19 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=38860 $Y=74480 $D=3
M20 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=38860 $Y=77860 $D=3
M21 3 Vpcas 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=39790 $Y=57150 $D=3
M22 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=39850 $Y=74480 $D=3
M23 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=39850 $Y=77860 $D=3
M24 3 7 3 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=40780 $Y=57150 $D=3
M25 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=40840 $Y=74480 $D=3
M26 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=40840 $Y=77860 $D=3
M27 12 8 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=43070 $Y=57150 $D=3
M28 24 Vpcas 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=44060 $Y=57150 $D=3
M29 24 9 24 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=45050 $Y=57150 $D=3
M30 43 Vb2 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=50230 $Y=65810 $D=3
M31 44 Vb2 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=50230 $Y=70410 $D=3
M32 44 10 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52140 $Y=76680 $D=3
M33 44 Vb2 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52520 $Y=65810 $D=3
M34 43 Vb2 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52520 $Y=70410 $D=3
M35 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52770 $Y=39370 $D=3
M36 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52770 $Y=44250 $D=3
M37 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52770 $Y=49500 $D=3
M38 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=52770 $Y=54380 $D=3
M39 AVdd 12 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53130 $Y=76680 $D=3
M40 12 Vb2 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53510 $Y=65810 $D=3
M41 1 Vb2 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53510 $Y=70410 $D=3
M42 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53760 $Y=39370 $D=3
M43 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53760 $Y=44250 $D=3
M44 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53760 $Y=49500 $D=3
M45 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=53760 $Y=54380 $D=3
M46 43 12 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=54120 $Y=76680 $D=3
M47 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=54750 $Y=39370 $D=3
M48 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=54750 $Y=44250 $D=3
M49 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=54750 $Y=49500 $D=3
M50 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=54750 $Y=54380 $D=3
M51 AVdd 12 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55110 $Y=76680 $D=3
M52 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55740 $Y=39370 $D=3
M53 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55740 $Y=44250 $D=3
M54 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55740 $Y=49500 $D=3
M55 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55740 $Y=54380 $D=3
M56 1 Vb2 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55800 $Y=65810 $D=3
M57 12 Vb2 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=55800 $Y=70410 $D=3
M58 44 12 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=56100 $Y=76680 $D=3
M59 44 17 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=57090 $Y=76680 $D=3
M60 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=58470 $Y=39390 $D=3
M61 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=58470 $Y=48880 $D=3
M62 50 Vb1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=59380 $Y=76680 $D=3
M63 49 Vb2 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=59450 $Y=68130 $D=3
M64 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=59460 $Y=39390 $D=3
M65 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=59460 $Y=48880 $D=3
M66 AVdd Vb1 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=60370 $Y=76680 $D=3
M67 50 Vb2 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=60440 $Y=68130 $D=3
M68 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=60450 $Y=39390 $D=3
M69 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=60450 $Y=48880 $D=3
M70 50 Vb1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=61360 $Y=76680 $D=3
M71 49 Vb2 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=61430 $Y=68130 $D=3
M72 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=61440 $Y=39390 $D=3
M73 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=61440 $Y=48880 $D=3
M74 AVdd Vb1 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=62350 $Y=76680 $D=3
M75 50 Vb2 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=62420 $Y=68130 $D=3
M76 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=62430 $Y=39390 $D=3
M77 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=62430 $Y=48880 $D=3
M78 50 Vb1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=63340 $Y=76680 $D=3
M79 49 Vb2 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=63410 $Y=68130 $D=3
M80 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=63420 $Y=39390 $D=3
M81 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=63420 $Y=48880 $D=3
M82 AVdd Vb1 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=64330 $Y=76680 $D=3
M83 50 Vb2 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=64400 $Y=68130 $D=3
M84 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=64410 $Y=39390 $D=3
M85 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=64410 $Y=48880 $D=3
M86 50 Vb1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=65320 $Y=76680 $D=3
M87 49 Vb2 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=65390 $Y=68130 $D=3
M88 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=65400 $Y=39390 $D=3
M89 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=65400 $Y=48880 $D=3
M90 AVdd Vb1 50 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=66310 $Y=76680 $D=3
M91 50 Vb2 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=66380 $Y=68130 $D=3
M92 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=66390 $Y=39390 $D=3
M93 30 30 49 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=66390 $Y=48880 $D=3
M94 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=67380 $Y=39390 $D=3
M95 49 30 30 AVdd P_18_MM L=4.5e-07 W=8e-06 $X=67380 $Y=48880 $D=3
M96 44 32 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=68600 $Y=76680 $D=3
M97 AVdd 12 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=69590 $Y=76680 $D=3
M98 43 Vb2 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70030 $Y=65810 $D=3
M99 44 Vb2 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70030 $Y=70410 $D=3
M100 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70130 $Y=39370 $D=3
M101 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70130 $Y=44250 $D=3
M102 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70130 $Y=49500 $D=3
M103 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70130 $Y=54380 $D=3
M104 43 12 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=70580 $Y=76680 $D=3
M105 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=71120 $Y=39370 $D=3
M106 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=71120 $Y=44250 $D=3
M107 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=71120 $Y=49500 $D=3
M108 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=71120 $Y=54380 $D=3
M109 AVdd 12 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=71570 $Y=76680 $D=3
M110 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72110 $Y=39370 $D=3
M111 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72110 $Y=44250 $D=3
M112 49 Vi+ 47 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72110 $Y=49500 $D=3
M113 49 Vi- 46 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72110 $Y=54380 $D=3
M114 44 Vb2 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72320 $Y=65810 $D=3
M115 43 Vb2 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72320 $Y=70410 $D=3
M116 44 12 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=72560 $Y=76680 $D=3
M117 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73100 $Y=39370 $D=3
M118 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73100 $Y=44250 $D=3
M119 46 Vi- 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73100 $Y=49500 $D=3
M120 47 Vi+ 49 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73100 $Y=54380 $D=3
M121 12 Vb2 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73310 $Y=65810 $D=3
M122 1 Vb2 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73310 $Y=70410 $D=3
M123 44 35 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=73550 $Y=76680 $D=3
M124 1 Vb2 43 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=75600 $Y=65810 $D=3
M125 12 Vb2 44 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=75600 $Y=70410 $D=3
M126 24 36 24 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=80760 $Y=57150 $D=3
M127 12 Vpcas 24 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=81750 $Y=57150 $D=3
M128 12 37 12 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=82740 $Y=57150 $D=3
M129 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=85020 $Y=74480 $D=3
M130 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=85020 $Y=77860 $D=3
M131 3 38 3 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=85030 $Y=57150 $D=3
M132 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=86010 $Y=74480 $D=3
M133 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=86010 $Y=77860 $D=3
M134 1 Vpcas 3 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=86020 $Y=57150 $D=3
M135 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=87000 $Y=74480 $D=3
M136 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=87000 $Y=77860 $D=3
M137 1 39 1 AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=87010 $Y=57150 $D=3
M138 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=87990 $Y=74480 $D=3
M139 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=87990 $Y=77860 $D=3
M140 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=88980 $Y=74480 $D=3
M141 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=88980 $Y=77860 $D=3
M142 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=89970 $Y=74480 $D=3
M143 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=89970 $Y=77860 $D=3
M144 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=90960 $Y=74480 $D=3
M145 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=90960 $Y=77860 $D=3
M146 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=91950 $Y=74480 $D=3
M147 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=91950 $Y=77860 $D=3
M148 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=92940 $Y=74480 $D=3
M149 Vo 1 AVdd AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=92940 $Y=77860 $D=3
M150 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=93930 $Y=74480 $D=3
M151 AVdd 1 Vo AVdd P_18_MM L=4.5e-07 W=2.5e-06 $X=93930 $Y=77860 $D=3
M152 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=42000 $Y=11180 $D=2
M153 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=42000 $Y=13660 $D=2
M154 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=42990 $Y=11180 $D=2
M155 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=42990 $Y=13660 $D=2
M156 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=43980 $Y=11180 $D=2
M157 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=43980 $Y=13660 $D=2
M158 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=44970 $Y=11180 $D=2
M159 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=44970 $Y=13660 $D=2
M160 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=45960 $Y=11180 $D=2
M161 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=45960 $Y=13660 $D=2
M162 45 Vi+ 43 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=52780 $Y=28230 $D=2
M163 45 Vi- 44 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=52780 $Y=32070 $D=2
M164 44 Vi- 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=53770 $Y=28230 $D=2
M165 43 Vi+ 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=53770 $Y=32070 $D=2
M166 24 14 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=54220 $Y=14940 $D=2
M167 3 15 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=54220 $Y=17400 $D=2
M168 45 Vi- 44 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=54760 $Y=28230 $D=2
M169 45 Vi+ 43 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=54760 $Y=32070 $D=2
M170 46 Vb3 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=55210 $Y=14940 $D=2
M171 47 Vb3 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=55210 $Y=17400 $D=2
M172 43 Vi+ 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=55750 $Y=28230 $D=2
M173 44 Vi- 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=55750 $Y=32070 $D=2
M174 3 Vb3 47 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=57500 $Y=14940 $D=2
M175 24 Vb3 46 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=57500 $Y=17400 $D=2
M176 12 19 12 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=58030 $Y=22380 $D=2
M177 AGnd 24 46 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=58170 $Y=11600 $D=2
M178 30 30 45 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=58480 $Y=28250 $D=2
M179 3 20 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=58490 $Y=14940 $D=2
M180 24 21 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=58490 $Y=17400 $D=2
M181 24 Vncas 12 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=59020 $Y=22380 $D=2
M182 47 24 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=59160 $Y=11600 $D=2
M183 45 30 30 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=59470 $Y=28250 $D=2
M184 24 25 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=60010 $Y=22380 $D=2
M185 30 30 45 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=60460 $Y=28250 $D=2
M186 48 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=61450 $Y=11600 $D=2
M187 45 Vb3 48 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=61450 $Y=16170 $D=2
M188 45 30 30 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=61450 $Y=28250 $D=2
M189 AGnd Vb4 48 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=62440 $Y=11600 $D=2
M190 48 Vb3 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=62440 $Y=16170 $D=2
M191 30 30 45 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=62440 $Y=28250 $D=2
M192 48 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=63430 $Y=11600 $D=2
M193 45 Vb3 48 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=63430 $Y=16170 $D=2
M194 45 30 30 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=63430 $Y=28250 $D=2
M195 AGnd Vb4 48 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=64420 $Y=11600 $D=2
M196 48 Vb3 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=64420 $Y=16170 $D=2
M197 30 30 45 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=64420 $Y=28250 $D=2
M198 45 30 30 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=65410 $Y=28250 $D=2
M199 3 27 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=65800 $Y=22380 $D=2
M200 30 30 45 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=66400 $Y=28250 $D=2
M201 AGnd 24 47 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=66710 $Y=11600 $D=2
M202 1 Vncas 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=66790 $Y=22380 $D=2
M203 3 28 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=67380 $Y=14940 $D=2
M204 24 29 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=67380 $Y=17400 $D=2
M205 45 30 30 AGnd N_18_MM L=4.5e-07 W=5.12e-06 $X=67390 $Y=28250 $D=2
M206 46 24 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=67700 $Y=11600 $D=2
M207 1 31 1 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=67780 $Y=22380 $D=2
M208 47 Vb3 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=68370 $Y=14940 $D=2
M209 46 Vb3 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=68370 $Y=17400 $D=2
M210 45 Vi+ 43 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=70120 $Y=28230 $D=2
M211 45 Vi- 44 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=70120 $Y=32070 $D=2
M212 24 Vb3 46 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=70660 $Y=14940 $D=2
M213 3 Vb3 47 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=70660 $Y=17400 $D=2
M214 44 Vi- 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=71110 $Y=28230 $D=2
M215 43 Vi+ 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=71110 $Y=32070 $D=2
M216 24 33 24 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=71650 $Y=14940 $D=2
M217 3 34 3 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=71650 $Y=17400 $D=2
M218 45 Vi- 44 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=72100 $Y=28230 $D=2
M219 45 Vi+ 43 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=72100 $Y=32070 $D=2
M220 43 Vi+ 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=73090 $Y=28230 $D=2
M221 44 Vi- 45 AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=73090 $Y=32070 $D=2
M222 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=79760 $Y=11160 $D=2
M223 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=79760 $Y=13640 $D=2
M224 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=80750 $Y=11160 $D=2
M225 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=80750 $Y=13640 $D=2
M226 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=81740 $Y=11160 $D=2
M227 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=81740 $Y=13640 $D=2
M228 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=82730 $Y=11160 $D=2
M229 Vo 3 AGnd AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=82730 $Y=13640 $D=2
M230 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=83720 $Y=11160 $D=2
M231 AGnd 3 Vo AGnd N_18_MM L=4.5e-07 W=1.6e-06 $X=83720 $Y=13640 $D=2
C232 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=16440 $D=64
C233 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=24990 $D=64
C234 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=33540 $D=64
C235 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=42090 $D=64
C236 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=50640 $D=64
C237 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=12360 $Y=59190 $D=64
C238 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=16550 $D=64
C239 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=25100 $D=64
C240 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=33650 $D=64
C241 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=42200 $D=64
C242 4 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=50750 $D=64
C243 2 Vo 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=101340 $Y=59300 $D=64
.ENDS
***************************************
